US06710210B2
A total of 63.2 g of N, N-dibenzyl-aminomethyl cyclopropyl ketone hydrochloride was dissolved in 316 g of methanol, followed by dropwise addition of 11 g of 33% by weight hydrochloric acid. The inner atmosphere of the reaction system was replaced with nitrogen gas three times, 6.3 g of 5% by weight palladium-carbon was then added to the mixture, and the inner atmosphere of the reaction system was replaced with hydrogen gas three times, followed by stirring at room temperature for 2.5 hours. After the completion of the reaction, the resulting reaction mixture was filtrated using a filter aid (available from Kohjin Co., Ltd. under the trade name of “Cerafloc”), the filtrate was concentrated and thereby yielded 38.3 g of N-benzyl-aminomethyl cyclopropyl ketone hydrochloride as a colorless crystal.

reactant | N, N-dibenzyl-aminomethyl cyclopropyl ketone hydrochloride | 63.2 g | Cl.C1(CC1)C(=O)CN(CC1=CC=CC=C1)CC1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 316 g | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | N-benzyl-aminomethyl cyclopropyl ketone hydrochloride | 38.3 g | Cl.C1(CC1)C(=O)CNCC1=CC=CC=C1 | InChI=1S/C12H15NO.ClH/c14-12(11-6-7-11)9-13-8-10-4-2-1-3-5-10;/h1-5,11,13H,6-9H2;1H
